US07618961B2
2-(2-Amino-1,3-thiazol-4-yl)-N-ethyl-N-methylacetamide
This compound was prepared from 2-amino-4-thiazoleacetic acid (3.48 g, 22 mmol), EDCI (4.37 g, 22.8 mmol), DMAP (270 mg, 2.2 mmol) and N-ethylmethylamine (1.99 mL, 23.2 mmol) in DMF (30 mL). The resulting solution was left overnight at room temperature. DMF was removed in vacuo and the residue purified by flash chromatrography on silica gel using 2% and 5% methanol/ethyl acetate as eluent. This procedure yielded 2.09 g (40%) of the title compound: 1H NMR (CDCl3) δ 6.28, 6.30 (1H), 5.06 (bs, 1H), 3.60, 3.61 (2H), 3.41 (m, 2H), 3.0, 2.92 (s, 3H), 1.11 (q, 3H). MS EI m/z 200.2.

reactant | 2-amino-4-thiazoleacetic acid | 22 mmol, 3.48 g | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | EDCI | 22.8 mmol, 4.37 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-ethylmethylamine | 23.2 mmol, 1.99 mL | C(C)NC | C3H9N
catalyst | DMAP | 2.2 mmol, 270 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(2-Amino-1,3-thiazol-4-yl)-N-ethyl-N-methylacetamide | 2.09 g, 40% | NC=1SC=C(N1)CC(=O)N(C)CC | C8H13N3OS
